US04794188
A solution of the ketone, 2-(3-hexanoylphenoxymethyl)quinoline (prepared from 3-hexanoylphenol and 2-chloromethyl quinoline)(6 g, 0.018 mol) in dry THF (25 ml) was added slowly to a mildly refluxing suspension of sodium hydride (1.3 g, 0.054 mol) in dry THF (75 ml) containing excess methyl iodide (10.3 g, 0.073 mol) After the addition of the ketone was complete (30 min.), the reaction mixture was refluxed for 4 hours. After cooling the mixture to room temperature, excess NaH was destroyed by adding methanol. All volatiles were removed at the rotary evaporator and the residue was taken up in ethyl acetate. The organic extract was washed with water and brine, and dried over anhydrous magnesium sulfate. Upon removal of all solvent, the mono-methylated eetone (2-[3-(2-methylhexanoyl) phenoxymethyl]quinoline, was obtained as a yellow oil weighing 8 g.

reactant | 2-(3-hexanoylphenoxymethyl)quinoline | 0.018 mol, 6 g | C(CCCCC)(=O)C=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C22H23NO2
reactant | sodium hydride | 0.054 mol, 1.3 g | [H-].[Na+]
reactant | methyl iodide | 0.073 mol, 10.3 g | CI | CH3I
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 2-[3-(2-methylhexanoyl) phenoxymethyl]quinoline | CC(C(=O)C=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1)CCCC | C23H25NO2
